US05114940
4-Fluoroaniline (ex Aldrich) and anhydrous glycerol (ex Fluka) were reacted together in a Skraup reaction according to Sveinbjornsson et al, J. Org. Chem., 16, 1450 (1951) to give 6-fluoroquinoline. The latter (3.82 g) in glacial acetic acid (22 ml) was treated with 30% hydrogen peroxide (7 ml) for 4 hours at 70°-80° C. Additional 30% hydrogen peroxide (7 ml) was added and the mixture kept for 16 hours at 70°-80° C. The solvents were removed at reduced pressure and the residue neutralized with solid sodium carbonate and extracted with chloroform. The organic phase was washed with hexane and dried to give 6-fluoroquinoline-N-oxide (3.13 g). The latter (1 g) was heated under reflux with acetic anhydride (6 ml) in the absence of moisture for 1 hour, the hot mixture treated with water (6 ml), boiled for 1 hour and poured onto fresh ice. After neutralisation with aqueous sodium carbonate the solid product, 2-hydroxy-6-fluoroquinoline, was collected by filtration and dried (0.39 g). 2-chloro-6-fluoroquinoline was obtained by analogy with Example IV and used in Stage a.

reactant | 4-Fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-fluoroquinoline | FC=1C=C2C=CC=NC2=CC1 | C9H6FN
